US06201006B1
d) Synthesis of ethyl 6-cyano-1-ethylindole-2-carboxylate
In a 1 l flask, 23.5 g of ethyl 6-cyanoindole-2-carboxylate was dissolved in 300 ml of dimethylformamide, and 6.6 g of 60% NaH was slowly added thereto at 0° C. 17.6 ml of iodoethane was then added thereto at −10˜0° C. and the mixture was stirred for 2 hours at room temperature. The reaction solution was cooled and, after adding ice, diluted with water and then extracted three times with ethyl acetate. The organic extracts were combined, dried over MgSO4 and then evaporated. The residue was purified with silica gel column chromatography [eluent: ethyl acetate/n-hexane(1:3)]. The fractions containing the desired product were combined and then evaporated to obtain 26.2 g of the title compound as a yellow solid.

reactant | NaH | 6.6 g | [H-].[Na+]
reactant | iodoethane | 17.6 ml | ICC | C2H5I
reactant | ethyl 6-cyanoindole-2-carboxylate | 23.5 g | C(#N)C1=CC=C2C=C(NC2=C1)C(=O)OCC | C12H10N2O2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 6-cyano-1-ethylindole-2-carboxylate | 26.2 g | C(#N)C1=CC=C2C=C(N(C2=C1)CC)C(=O)OCC | C14H14N2O2
